### PR TITLE
lebesgue measure of intervals

### PR DESCRIPTION
**Pull request by affeldt-aist**
##### Motivation for this change

basic lemma about `lebesgue_measure`

@hoheinzollern 

##### Things done/to do

- [x] added corresponding entries in `CHANGELOG_UNRELEASED.md`
~~- [ ] added corresponding documentation in the headers~~

##### Automatic note to reviewers

Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-following,-reviewing-and-playing-with-a-PR#checklist-for-reviewing-a-pr) and put a milestone if possible.

### CODE REVIEW

File: theories/lebesgue_measure.v [hunk 1]
```diff
@@ -543,6 +543,48 @@ rewrite -addn1 natrD natr_absz ger0_norm ?floor_ge0 ?invr_ge0 1?ltW//.
 by rewrite -RfloorE lt_succ_Rfloor.
 Qed.
 
+Lemma itv_bnd_open_bigcup (R : realType) b (r s : R) :
+  [set` Interval (BSide b r) (BLeft s)] =
+  \bigcup_n [set` Interval (BSide b r) (BRight (s - n.+1%:R^-1))].
+Proof.
+apply/seteqP; split => [x/=|]; last first.
+  move=> x [n _ /=]; rewrite !in_itv => /andP[-> /le_lt_trans];  apply.
```
Comment (proux01) [inline theories/lebesgue_measure.v:551]:
```suggestion
  move=> x [n _ /=]; rewrite !in_itv => /andP[-> /le_lt_trans]; apply.
```
or maybe even
```suggestion
  move=> x [n _ /=] [!in_itv] /andP[-> /le_lt_trans]; apply.
```
with recent mathcomp

File: theories/lebesgue_measure.v [hunk 2]
```diff
@@ -543,6 +543,48 @@ rewrite -addn1 natrD natr_absz ger0_norm ?floor_ge0 ?invr_ge0 1?ltW//.
...
+move=> xy; exists `|ceil (y - x)|%N => //=; rewrite in_itv/= xy/= -ler_subl_addl.
+rewrite !natr_absz/= ger0_norm ?ceil_ge0// ?subr_ge0//; last first.
+  by case: b xy => //= /ltW.
+by rewrite -RceilE Rceil_ge.
+Qed.
+
+Lemma itv_infty_bnd_bigcup (R : realType) b (x : R) :
+  [set` Interval -oo%O (BSide b x)] =
+  \bigcup_i [set` Interval (BLeft (x - i%:R)) (BSide b x)].
+Proof.
```
Comment (proux01) [inline theories/lebesgue_measure.v:578]: I would have expected the proof to use symmetry and the previous `itv_bnd_infty_bigcup`?

I'd also expect a `itv_open_bnd_bigcup` for completeness

File: theories/lebesgue_measure.v [hunk 3]
```diff
@@ -773,6 +808,176 @@ End salgebra_R_ssets.
...
+have [ab|ba] := ltP a b; last by rewrite set_itv_ge ?measure0// -leNgt.
+have := lebesgue_measure_itvoo a b.
+rewrite 2!hlength_itv => <-; rewrite -setU1itv// measureU//.
+- by have /= -> := lebesgue_measure_set1 a; rewrite add0e.
+- exact: measurable_itv.
+- by apply/seteqP; split => // x [/= ->]; rewrite in_itv/= ltxx.
+Qed.
+
+Lemma lebesgue_measure_itv_bnd (x y : bool) (a b : R) :
```
Comment (proux01) [inline theories/lebesgue_measure.v:894]:
```suggestion
Let lebesgue_measure_itv_bnd (x y : bool) (a b : R) :
```

**Review by proux01 — APPROVED** [review]
LGTM (although I'm not an expert in integration theory)

File: theories/classical_sets.v [hunk 4]
```diff
@@ -2700,6 +2700,13 @@ rewrite -Order.TotalTheory.ltNge => kn.
 by rewrite (Order.POrderTheory.le_trans _ (Am _ Ak)).
 Qed.
 
+Lemma bigcup_oppr (R : zmodType) (I : Type) (F : I -> set R) :
+  \bigcup_i (-%R @` F i) = -%R @` \bigcup_i F i.
```
Comment (proux01) [inline theories/classical_sets.v:2704]: Not for that PR but wouldn't it be worth having a similar lemma for ring morphisms? (if it holds, haven't tried)

**Comment by proux01** [comment]
I'll merge by the end of the week if there is no further comment.

File: theories/classical_sets.v (hunk 4 above)
Comment (t6s) [reply theories/classical_sets.v:2704]: This should hold with any function and any family of sets over any type. Isn't there already such a generic lemma?

**Comment by t6s** [comment]
I left a minor comment on the source code but I do not intend to block merging.

**Review by t6s — APPROVED** [review]
Lgtm

File: theories/classical_sets.v (hunk 4 above)
Comment (proux01) [reply theories/classical_sets.v:2704]: Note that, in the same vein, there is already `some_bigcup`.

**Comment by proux01** [comment]
@affeldt-aist do you prefer to handle the above `bigcup_oppr` point in the current PR or in a further one?

**Comment by affeldt-aist** [comment]
Maybe in a future PR.
